US04129700
1,3-Dimethyl-3-(t-butylperoxy)butyl N,N-dimethylcarbamate (C-IV)
To a solution of (97%) 1,3-dimethyl-3(t-butylperoxy)butyl chloroformate 5.2 g. (0.02 mole) in diethyl ether, cooled to 0°±1° C was added a solution of dimethylamine, 1.8 g. (0.04 mole) in diethyl ether over a period of 10 minutes. After the addition was complete the mixture was allowed to stir for two hours while the reaction temperature was allowed to rise to 20°±1° C. The reaction mixture was then filtered to remove the amine hydrochloride and the organic phase washed with 10% aqueous Tartaric acid solution and water to neutrality.

reactant | 1,3-dimethyl-3(t-butylperoxy)butyl chloroformate | 5.2 g | ClC(=O)OC(CC(C)(OOC(C)(C)C)C)C | C11H21ClO4
reactant | dimethylamine | CNC | C2H7N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,3-Dimethyl-3-(t-butylperoxy)butyl N,N-dimethylcarbamate | CN(C(OC(CC(C)(OOC(C)(C)C)C)C)=O)C | C13H27NO4
